US07919519B2
N-Bromosuccinimide (505 mg, 2837 μmol) was added in one portion to a solution of 1-bromo-4-(diethoxymethyl)-2-fluorobenzene (551 mg, 2837 μmol) in 3:1 THF-H2O (6.0 mL) at 25° C., and the resulting solution was stirred at 25° C. for 10 min. The solution was partitioned between EtOAc (50 mL) and brine (8 mL). The organic layer was separated, dried over sodium sulfate, and concentrated in vacuo. Chromatographic purification of the residue (ISCO, 4 g, 0-100% EtOAc/hexanes) furnished 4-(2-bromoacetyl)-3-fluorobenzaldehyde as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 10.08 (d, J=1.8 Hz, 1H), 8.06-8.12 (m, 1H), 7.79 (dd, J=8.0, 1.4 Hz, 1H), 7.69 (dd, J=10.6, 1.4 Hz, 1H), 4.52 (d, J=2.3 Hz, 2H).

reactant | N-Bromosuccinimide | 2837 μmol, 505 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-bromo-4-(diethoxymethyl)-2-fluorobenzene | 2837 μmol, 551 mg | BrC1=C(C=C(C=C1)C(OCC)OCC)F | C11H14BrFO2
reactant | THF H2O | 6.0 mL | C1CCOC1.O
product | 4-(2-bromoacetyl)-3-fluorobenzaldehyde | BrCC(=O)C1=C(C=C(C=O)C=C1)F | C9H6BrFO2
